US09447044B2
Step A: 4-chloromethyl-6,8-difluoro-7-hydroxy-2-chromenone
Sulfuric acid (2 mL) in a flask was cooled to 0° C. After ethyl 4-chloroacetoacetate (0.62 g, 3.8 mmol) was added thereto, 2,4-difluororesorcinol (0.5 g, 3.4 mmol) was added dropwise thereto. The mixture was stirred at room temperature for 2 hours, and the reactant was placed in ice water. The precipitate was filtered, washed with water, and dried by nitrogen gas to obtain the title compound (0.2 g, 24%).

reactant | Sulfuric acid | 2 mL | S(O)(O)(=O)=O | H2O4S
reactant | ethyl 4-chloroacetoacetate | 3.8 mmol, 0.62 g | ClCC(CC(=O)OCC)=O | C6H9ClO3
reactant | 2,4-difluororesorcinol | 3.4 mmol, 0.5 g | FC1=C(O)C=CC(=C1O)F | C6H4F2O2
product | 4-chloromethyl-6,8-difluoro-7-hydroxy-2-chromenone | 0.2 g, 24% | ClCC1=CC(OC2=C(C(=C(C=C12)F)O)F)=O | C10H5ClF2O3
